US05126448
In 5 ml of dimethylformamide were dissolved 0.32 g of 2-tert-butoxycarbonyl-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carboxylic acid and 0.2 g of hexahydro-1H-1,4-diazepine and after adding thereto 3 ml of a dimethylformamide solution of 0.33 g of diphenylphosphorylazide, the mixture was stirred overnight. To the reaction mixture was added 50 g of ethyl acetate and the mixture was washed twice with an aqueous 5% sodium hydrogencarbonate solution and then twice with a saturated sodium chloride solution, and thereafter dried with sodium sulfate. After filtering away sodium sulfate, 5 ml of a mixture of 1N hydrochloric acid in ethyl acetate were added to the filtrate and the mixture was heated to 50° C. for one hours. After distilling off ethyl acetate under reduced pressure, the residue formed was dissolved in 30 ml of water and the solution was washed thrice with 10 ml of ethyl ether. The aqueous layer was adjusted to pH 12 with an aqueous solution of 5N sodium hydroxide and after adding thereto 1 g of sodium chloride, the reaction mixture was extracted thrice with chloroform. The chloroform layer was dried by magnesium sulfate and then the residue formed was purified by silica gel thin layer chromatography (solvent: ethyl acetate and methanol of 10:1). Then, 2 ml of a mixture of 1N hydrochloric acid in ethyl acetate was added to the product and crystals thus deposited were collected by filtration to provide 0.24 g (yield of 62%) of hexahydro-1-(1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carbonyl)-1H-1,4-diazepine.di-hydrochloride. (See Table 9-1, Table 10-1).

reactant | 2-tert-butoxycarbonyl-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carboxylic acid | 0.32 g | C(C)(C)(C)OC(=O)C1C(C2C3(C(=NCC2)C=CC=C3)S1)C(=O)O | C17H21NO4S
reactant | hexahydro-1H-1,4-diazepine | 0.2 g | N1CCNCCC1 | C5H12N2
reactant | diphenylphosphorylazide | 0.33 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | ethyl acetate | 50 g | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | hexahydro-1-(1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carbonyl)-1H-1,4-diazepine | 0.24 g, yield of 62% | S1CC(C2C13C(=NCC2)C=CC=C3)C(=O)N3CCNCCC3 | C17H23N3OS
